US04619917
(a) Preparation of 1-benzyloxy-4-octadecyloxy-butane-2-ol
To 12.0 g of 60% sodium hydride in mineral oil (30 mmol, washed free of oil by the use of petroleum ether) was added 32.4 g (0.3 mol) of benzyl alcohol in 200 ml of dry dimethylformamide. The suspension was heated under a flow of nitrogen to 80° C. and maintained at this temperature for 45 minutes, after which time 66.1 g (0.19 mol) of an epoxide (prepared by the peracid oxidation of octadecyl-3-butenyl ether) in 100 ml of dimethylformamide was added and the temperature maintained at 80° C. for 15 hours. The solvent was then removed in vacuo and the residue chromatographed on silica gel employing a mixture of petroleum ether and diethyl ether in a ratio of 3:2 as the eluent to yield a wax-like solid.

reactant | benzyl alcohol | 0.3 mol, 32.4 g | C(C1=CC=CC=C1)O | C7H8O
reactant | octadecyl-3-butenyl ether | C(CCCCCCCCCCCCCCCCC)OCCC=C | C22H44O
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-benzyloxy-4-octadecyloxy-butane-2-ol | C(C1=CC=CC=C1)OCC(CCOCCCCCCCCCCCCCCCCCC)O | C29H52O3
